US07816371B2
d. (2R)-Methyl 3-(tert-butyldimethylsilyloxy)-2-(5-(2-(3,4-dichlorophenyl)propanamido)-1-oxoisoquinolin-2-(1H)-yl)propanoate
A round bottom flask was charged with (R)-methyl 2-(5-amino-1-oxoisoquinolin-2(1H)-yl)-3-(tert-butyldimethylsilyloxy)propanoate (300 mg, 0.0008 mol), 2-(3,4-dichlorophenyl)propanoic acid (200 mg, 0.00092 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (600 mg, 0.002 mol), N,N-diisopropylethylamine (0.3 mL, 0.002 mol) and N,N-dimethylformamide (2 mL, 0.03 mol) and the reaction stirred at room temperature over night. The reaction did not go to completion. The solvent was removed and the residue was purified flash chromatography to obtain the product as a solid. MS m/z=578.3 (M+H).

reactant | (R)-methyl 2-(5-amino-1-oxoisoquinolin-2(1H)-yl)-3-(tert-butyldimethylsilyloxy)propanoate | 0.0008 mol, 300 mg | NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)OC)CO[Si](C)(C)C(C)(C)C | C19H28N2O4Si
reactant | 2-(3,4-dichlorophenyl)propanoic acid | 0.00092 mol, 200 mg | ClC=1C=C(C=CC1Cl)C(C(=O)O)C | C9H8Cl2O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.002 mol, 600 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.002 mol, 0.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 0.03 mol, 2 mL | CN(C=O)C | C3H7NO
product | (2R)-Methyl 3-(tert-butyldimethylsilyloxy)-2-(5-(2-(3,4-dichlorophenyl)propanamido)-1-oxoisoquinolin-2-(1H)-yl)propanoate | [Si](C)(C)(C(C)(C)C)OC[C@H](C(=O)OC)N1C(C2=CC=CC(=C2C=C1)NC(C(C)C1=CC(=C(C=C1)Cl)Cl)=O)=O | C28H34Cl2N2O5Si
